US08455488B2
Synthesis of 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-ethylurea (Compound II-81)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-ethylureidooxy)acetic acid (Compound VI-13) 68 mg (0.42 mmol) was coupled with (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide (Compound IV-10) 100 mg (0.28 mmol) to obtain the title compound.

reactant | 2-(3-ethylureidooxy)acetic acid | 0.42 mmol, 68 mg | C(C)NC(NOCC(=O)O)=O | C5H10N2O4
reactant | (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide | 0.28 mmol, 100 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)C | C21H30N2O3
product | 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-ethylurea | C(C)OC([C@H](C)N(C([C@H](C)NC(CONC(=O)NCC)=O)=O)CC1=CC=CC2=CC=CC=C12)OCC | C26H38N4O6
